US04052455
Reaction of benzamidine with 3,4-dichlorostyrylsulfonyl chloride according to the above procedure affords N-[(3,4-DICHLOROSTYRYL)-SULFONYL]BENZAMIDINE, m.p. 144°-146° C.

reactant | benzamidine | C(C1=CC=CC=C1)(=N)N | C7H8N2
reactant | 3,4-dichlorostyrylsulfonyl chloride | ClC=1C=C(C=CS(=O)(=O)Cl)C=CC1Cl | C8H5Cl3O2S
product | N-[(3,4-DICHLOROSTYRYL)-SULFONYL]BENZAMIDINE | ClC=1C=C(C=CS(=O)(=O)NC(C2=CC=CC=C2)=N)C=CC1Cl | C15H12Cl2N2O2S
